US04436726
To a solution of tert-butyl 3-hydroxyhexanoate (300 mg) in pyridine (5 ml) was added n-butyric anhydride (2 ml), and the resulting solution was heated at 100° C. for 2 hours and then allowed to stand overnight. The reaction mixture was diluted with ethyl acetate and washed with diluted hydrochloride aqueous solution and water. Ethyl acetate was distilled off to give a residue which was dissolved in saturated sodium hydrogen carbonate aqueous solution (20 ml) and then methanol (5 ml) was added. After the resulting mixture was stirred at ambient temperature for 2 hours, it was extracted with ethyl acetate, washed with water, and dried over magnesium sulfate. Evaporation of ethyl acetate gave a residue which was dried by high vacuum pump to afford an oil of tert-butyl 3-butanoyloxyhexanoate (368 mg).

reactant | tert-butyl 3-hydroxyhexanoate | 300 mg | OC(CC(=O)OC(C)(C)C)CCC | C10H20O3
reactant | n-butyric anhydride | 2 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | methanol | 5 ml | CO | CH4O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
product | tert-butyl 3-butanoyloxyhexanoate | 368 mg | C(CCC)(=O)OC(CC(=O)OC(C)(C)C)CCC | C14H26O4
